***** AD8036an SPICE model       Rev A SMR/ADI 8-26-97

* Copyright 1997 by Analog Devices, Inc.

* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License
* Statement.

* This model will give typical performance characteristics
* for the following parameters;

*     pos and neg clamp voltages
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, referred to the input
*     inoise, referred to the input
*     distortion is not characterized

* Node assignments

*                non-inverting input
*                |   inverting input
*                |   |           positive supply
*                |   |  VH   VL  |   negative supply
*                |   |   |   |   |   |   output
*                |   |   |   |   |   |   |
.SUBCKT AD8036an 1   2   3   4   99  50  21

* input stage *

eos 1 13 poly(2) 29 98 34 98 -2e-3 1 50e-9
rnon 13 98 500e3
ibnon 13 98 4e-6
ibinv 2 98 3.5e-6

cinnon 1 98 1.2e-12
cininv 2 98 1.2e-12

rinh 3 99 1e6
rinl 4 50 1e6
cinh 3 99 1e-12
cinl 4 50 1e-12

gincl 98 5 13 98 1e-2
rincl 98 5 1e2
dcl1 5 6 d1
dcl2 7 5 d1
eclH 6 98 poly(1) 3 98 -0.675 1
eclL 7 98 poly(1) 4 98 0.675 1

q1 11 2 8 qn1
q2 12 5 9 qn1
i1 10 50 0.1
i2 50 99 0.1
r3 99 11 12.8
r4 99 12 12.8
cpole 11 12 26.47e-12
r5 8 10 12.28
r6 9 10 12.28

* gain/bw stage

ggain1 99 14 11 12 0.078
ggain2 50 14 11 12 0.078
cgain1 99 14 67e-12
cgain2 50 14 67e-12
rgain1 99 14 10163
rgain2 50 14 10163
vclgn1 99 17 1.75
vclgn2 18 50 1.75
dclgn1 14 17 d1
dclgn2 18 14 d1

* reference stage

eref1 98 0 poly(2) 99 0 50 0 0 0.5 0.5
eref2 97 0 poly(2) 1 0 2 0 0 0.5 0.5

* common mode rejection

ecm1 30 98 97 98 4255
rcm1 30 31 4255
rcm2 31 32 1
lcm1 32 98 0.68e-6

ecm2 33 98 31 98 20k
rcm3 33 34 20k
rcm4 34 35 1
lcm2 35 98 3.18e-6

* vnoise

rnoise1 27 98 0.37e-3
vnoise1 27 98 0
vnoise2 28 98 0.475
dnoise1 28 27 dn

fnoise1 29 98 vnoise1 1
rnoise2 29 98 1

* buffer stage

gbuf 98 15 14 98 1e-2
rbuf 98 15 100

* output current reflected to supplies *

fcurr 98 24 vout 1
vcur1 25 98 0
vcur2 98 26 0
dcur1 24 25 d1
dcur2 26 24 d1

* output stage

vo1 99 19 0
vo2 20 50 0
fout1 0 99 poly(2) vo1 vcur1 -20.5e-3 1 -1
fout2 50 0 poly(2) vo2 vcur2 -20.5e-3 1 -1
gout1 19 16 15 99 1 
gout2 20 16 15 50 1
rout1 19 16 1
rout2 16 20 1
vout 16 21 0
rload 21 98 1e6
viclmp1 15 22 0.645
viclmp2 23 15 0.645
diclmp1 16 22 d1
diclmp2 23 16 d1
.model qn1 npn(bf=1e5)
.model d1 d()
.model dn d(af=1 kf=1e-8)
.ends ad8036an 

